US07576217B2
1-[4-(3,4-Difluoro-phenyl)-2-methyl-6-trifluoromethoxy-quinolin-3-yl]-2,2,2-trifluoro-ethanone
The title compound was prepared from (2-Amino-5-trifluoromethoxy-phenyl)-(3,4-difluoro-phenyl)-methanone [example A12] and 1,1,1-trifluoro-2,4-pentanedione according to the procedure of example 1, except that the solvent was isopropanol, the reaction time was of 16 h and heptane/ethyl acetate (1:2) was used. Yield: 36%; MS: m/z=435 (M).

reactant | (2-Amino-5-trifluoromethoxy-phenyl)-(3,4-difluoro-phenyl)-methanone | NC1=C(C=C(C=C1)OC(F)(F)F)C(=O)C1=CC(=C(C=C1)F)F | C14H8F5NO2
reactant | 1,1,1-trifluoro-2,4-pentanedione | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 1-[4-(3,4-Difluoro-phenyl)-2-methyl-6-trifluoromethoxy-quinolin-3-yl]-2,2,2-trifluoro-ethanone | Yield: 36% | FC=1C=C(C=CC1F)C1=C(C(=NC2=CC=C(C=C12)OC(F)(F)F)C)C(C(F)(F)F)=O | C19H9F8NO2
